US06468718B1
(Synthesis of 9-methacryloyloxymethylanthracene)
87.5 g (0.42 mol) of 9-hydroxymethylanthracene was added to 500 ml of ethyl acetate at room temperature. To this was further added 7.3 g (60 millimols) of 4-dimethylaminopyridine under stirring, and 83 g (0.54 mol) of methacrylic anhydride was dropwise added thereto. Thereafter, the reaction mixture solution was stirred at 60° C. for about 4 hours until the reaction was completed. After completion of the reaction, the reaction product was cooled to room temperature, and ethyl acetate was added thereto. The organic layer was washed with, successively, an alkaline water and water, then subjected to distillation under reduced pressure to remove the organic solvent and obtain a solid end product. Yield was 80 g (73%). This product was identified by measurement of the UV absorption in methanol and NMR. The UV absorption measurement revealed that the molar extinction coefficient at 248 nm was 1.05×105. 1H-NMR (DMSO-d6), (400 MHz) measurement showed signals at 1.82(s,3H), 5.59(s,1H), 5.9(s,1H), 6.2(s,2H), 7.49-7.7(m,4H), 8.12(m,2H), 8.4(m,2H) and 8.67(s,1H).

reactant | 9-hydroxymethylanthracene | 0.42 mol, 87.5 g | OCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C15H12O
reactant | methacrylic anhydride | 0.54 mol, 83 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
catalyst | 4-dimethylaminopyridine | 60 millimols, 7.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 9-methacryloyloxymethylanthracene | C(C(=C)C)(=O)OCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C19H16O2
